US08293768B2
Synthesis of 4-methyl-2-(2-oxo-3-((5-phenyloxazol-4-yl)methyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-((5-phenyloxazol-4-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)-pyridine, the title compound was obtained as a colorless solid in 13% yield: mp 78-81° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.59 (s, 1H), 8.54 (d, J=4.8 Hz, 1H), 7.89 (s, 1H), 7.72-7.69 (m, 3H), 7.50-7.36 (m, 3H), 7.30-7.27 (m, 1H), 6.04-6.00 (m, 1H), 4.68 (s, 2H), 4.58 (d, J=5.8 Hz, 2H), 4.11-4.05 (m, 2H), 3.73-3.67 (m, 2H), 2.62 (s, 3H); MS (ES+) m/z 475.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 4-methyl-2-(2-oxo-3-((5-phenyloxazol-4-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC=1N=COC1C1=CC=CC=C1)=O | C18H16N4O4S
reactant | 3-(aminomethyl)-pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(2-oxo-3-((5-phenyloxazol-4-yl)methyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 13% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CC=1N=COC1C1=CC=CC=C1)=O | C24H22N6O3S
